US06921767B2
2-amino-3-pyridinecarboxaldehyde
The compound was prepared according to the procedure as described by A. E. Moormann et al, Synthetic Communications, 17(14), 1695-1699 (1987) To a solution of 2-[3-(dibromomethyl)-2-pyridinyl]-1H-isoindole-1,3(2H)-dione (20 g, 50 mmol) in ethanol (250 ml) was added conc. NH4OH (25 ml) at 4° C. The reaction mixture was stirred 10 minutes at 4° C. then stirred at room temperature for one hour. Reaction mixture was concentrated under reduced pressure. To the concentrated residue was added con. HCl (150 ml) and mixture was refluxed for 3 hours. The reaction mixture was cooled to room temperature and concentrated. To the concentrated residue was added water (25 ml) then added saturated K2CO3 to neutralize the solution. The solution was extracted with methylenechloride (3×150 ml). Combined organic solution was washed with water (3×150 ml), brine (1×200 ml), dried over Na2SO4, concentrated. The concentrated residue was suspended in ether, filtered and washed with ether to give 4.3 g (70%) yellow solid. NMR (DMSO) δ 6.69-6.73 (m, 1H), 7.51 (bs, 2H), 7.95-7.98(m, 1H), 8.20-8.22 (m, 1H), 9.82 (s, 1H).

reactant | 2-[3-(dibromomethyl)-2-pyridinyl]-1H-isoindole-1,3(2H)-dione | 50 mmol, 20 g | BrC(C=1C(=NC=CC1)N1C(C2=CC=CC=C2C1=O)=O)Br | C14H8Br2N2O2
reactant | NH4OH | 25 ml | [NH4+].[OH-]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-amino-3-pyridinecarboxaldehyde | 4.3 g, 70% | NC1=NC=CC=C1C=O | C6H6N2O
